### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Affine): more on `xRep`

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds explicit formulas for `xRep` of a sum of two (affine) points on a Weierstrass curve.
This will be needed on the way to the Mordell-Weil Theorem for elliptic curves.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 1]
```diff
@@ -386,6 +389,75 @@ lemma addY_sub_negY_addY {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
   simp_rw [addY, negY, eq_div_iff (sub_ne_zero.mpr hx.symm)]
   linear_combination (norm := ring1) 2 * cyclic_sum_Y_mul_X_sub_X y₁ y₂ hx
 
+/-- The explicit formula for the `x`-coordinate of `P + Q` when `P ≠ ±Q`. -/
+lemma addX_slope_of_x_ne_x {xP yP xQ yQ : F} (hn : xP ≠ xQ) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]: Use x1, x2, y1, y2 according to the lemmas above, and ditto below

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 2]
```diff
@@ -386,6 +389,75 @@ lemma addY_sub_negY_addY {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
...
+     W.addX xP xQ (W.slope xP xQ yP yQ) =
+       ((yP - yQ) ^ 2 + W.a₁ * (yP - yQ) * (xP - xQ) - (W.a₂ + xP + xQ) * (xP - xQ) ^2) /
+         (xP - xQ) ^ 2 := by
+  have hxPQ' : xP - xQ ≠ 0 := by grind only
+  simp [addX, slope, hn, div_pow]
+  field
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]: I've only learnt to use `grind` more often recently:
```suggestion
  grind only [addX, slope]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 3]
```diff
@@ -386,6 +389,75 @@ lemma addY_sub_negY_addY {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
...
+
+/-- The explicit formula for the `x`-coordinate of `P - Q` when `P ≠ ±Q`. -/
+lemma addX_slope_negY_of_x_ne_x {xP yP xQ yQ : F} (hn : xP ≠ xQ) :
+     W.addX xP xQ (W.slope xP xQ yP <| W.negY xQ yQ) =
+       ((yP + yQ + W.a₁ * xQ + W.a₃) ^ 2 + W.a₁ * (yP + yQ + W.a₁ * xQ + W.a₃) * (xP - xQ)
+           - (W.a₂ + xP + xQ) * (xP - xQ) ^2) / (xP - xQ) ^ 2 := by
+  have hxPQ' : (xP - xQ) ≠ 0 := by grind only
+  simp [addX, slope, hn, div_pow]
+  field
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]: I can do this:
```suggestion
  grind only [addX, slope, negY]
```
But I imagine this lemma follows from the previous one by letting y be negY, so it's not needed.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean (hunk 1 above)
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]: This is the naming convention I use (see the Point file):
```suggestion
lemma addX_of_X_ne {xP yP xQ yQ : F} (hn : xP ≠ xQ) :
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 4]
```diff
@@ -386,6 +389,75 @@ lemma addY_sub_negY_addY {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
...
+
+/-!
+### Some statements about the numerator and denominator of the x-coordinate of 2*P
+-/
+
+lemma den_duplication_eq {x y : R} (h : W'.Equation x y) :
+    4 * x ^ 3 + W'.b₂ * x ^ 2 + 2 * W'.b₄ * x + W'.b₆ = (2 * y + W'.a₁ * x + W'.a₃) ^ 2 := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean:403]: This is essentially `WeierstrassCurve.Affine.CoordinateRing.mk_ψ₂_sq` but evaluated at a point on `W'`. Instead of adding it here I would add the lemma there. Note that this is also `WeierstrassCurve.twoTorsionPolynomial` but that will be deprecated eventually.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 5]
```diff
@@ -113,6 +113,9 @@ This depends on `W`, and has argument order: `x`, `y`. -/
 def negY (x y : R) : R :=
   -y - W'.a₁ * x - W'.a₃
 
+lemma sub_negY_eq (x y : R) : y - W'.negY x y = 2 * y + W'.a₁ * x + W'.a₃ :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]: I feel like this is unnecessary. Whenever you actually need to do this you should be able to do `ring` or `grind` to get the expression you need.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean [hunk 6]
```diff
@@ -386,6 +389,75 @@ lemma addY_sub_negY_addY {x₁ x₂ : F} (y₁ y₂ : F) (hx : x₁ ≠ x₂) :
...
+    rw [b₄, b₆, b₈] at h₂
+    grobner
+  · left
+    clear h₂
+    contrapose! H
+    rw [b₂, b₄, b₆] at H
+    grobner
+
+/-- The explicit duplication formula for the `x`-coordinate when `2*P ≠ 0`. -/
+lemma addX_x_x_slope_eq {x y : F} (h : W.Equation x y) (hn : y ≠ W.negY x y) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean]:
```suggestion
lemma addX_self_of_Y_ne {x y : F} (h : W.Equation x y) (hn : y ≠ W.negY x y) :
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 7]
```diff
@@ -882,8 +882,56 @@ lemma xRep_eq_xRep_iff {P Q : W.Point} : P.xRep = Q.xRep ↔ P = Q ∨ P = -Q :=
   refine ⟨eq_or_eq_neg_of_xRep_eq_xRep, fun H ↦ ?_⟩
   rcases H with rfl | rfl <;> simp
 
+variable [DecidableEq F]
+
+/-- We give an explicit expression for `xRep` of `P + P` when `2*P ≠ 0`. -/
+lemma xRep_add_self_of_ne {x y : F} (h : W.Nonsingular x y) (hn : y ≠ W.negY x y) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]:
```suggestion
lemma xRep_add_self_of_Y_ne {x y : F} (h : W.Nonsingular x y) (hn : y ≠ W.negY x y) :
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 8]
```diff
@@ -882,8 +882,56 @@ lemma xRep_eq_xRep_iff {P Q : W.Point} : P.xRep = Q.xRep ↔ P = Q ∨ P = -Q :=
...
+    (some x y h + some x y h).xRep =
+      ![(x ^ 4 - W.b₄ * x ^ 2 - 2 * W.b₆ * x - W.b₈) /
+        (4 * x ^ 3 + W.b₂ * x ^ 2 + 2 * W.b₄ * x + W.b₆), 1] := by
+  simp only [add_self_of_Y_ne hn, ← addX_x_x_slope_eq h.1 hn, xRep_some]
+
+/-- We give an explicit expression for `xRep` of `P + P` when `P ≠ 0` and `2*P = 0`. -/
+lemma xRep_add_self_of_eq {x y : F} (h : W.Nonsingular x y) (hn : y = W.negY x y) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]:
```suggestion
lemma xRep_add_self_of_Y_eq {x y : F} (h : W.Nonsingular x y) (hn : y = W.negY x y) :
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 9]
```diff
@@ -882,8 +882,56 @@ lemma xRep_eq_xRep_iff {P Q : W.Point} : P.xRep = Q.xRep ↔ P = Q ∨ P = -Q :=
...
+    (some x y h + some x y h).xRep = ![1, 0] := by
+  simp only [add_self_of_Y_eq hn, xRep_zero]
+
+/-- We give an explicit expression for `xRep` of `P + Q` when `P ≠ ±Q`. -/
+lemma xRep_add_of_ne {xP yP xQ yQ : F} (hP : W.Nonsingular xP yP)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]:
```suggestion
lemma xRep_add_of_X_ne {xP yP xQ yQ : F} (hP : W.Nonsingular xP yP)
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 10]
```diff
@@ -882,8 +882,56 @@ lemma xRep_eq_xRep_iff {P Q : W.Point} : P.xRep = Q.xRep ↔ P = Q ∨ P = -Q :=
...
+    (hQ : W.Nonsingular xQ yQ) (hn : xP ≠ xQ) :
+    (some xP yP hP + some xQ yQ hQ).xRep =
+      ![((yP - yQ) ^ 2 + W.a₁ * (yP - yQ) * (xP - xQ) - (W.a₂ + xP + xQ) * (xP - xQ) ^2) /
+         (xP - xQ) ^ 2, 1] := by
+  simp only [add_of_X_ne (h₁ := hP) (h₂ := hQ) hn, xRep_some, addX_slope_of_x_ne_x hn]
+
+/-- We give an explicit expression for `xRep` of `P - Q` when `P ≠ ±Q`. -/
+lemma xRep_add_neg_of_ne {xP yP xQ yQ : F} (hP : W.Nonsingular xP yP)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean]:
```suggestion
lemma xRep_sub_of_X_ne {xP yP xQ yQ : F} (hP : W.Nonsingular xP yP)
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean [hunk 11]
```diff
@@ -882,8 +882,56 @@ lemma xRep_eq_xRep_iff {P Q : W.Point} : P.xRep = Q.xRep ↔ P = Q ∨ P = -Q :=
...
+  simp
+
+lemma finite_preimage_xRep0 (x : F) : {P : W.Point | P.xRep 0 = x}.Finite := by
+  have : {P : W.Point | P.xRep 0 = x} ⊆ {P | P.xRep = ![x, 1]} ∪ {0} := by
+    intro P hP
+    match P with
+    | 0 => simp
+    | .some x' y h => simp_all [Point.xRep_some]
+  exact (finite_preimage_xRep x).union (Set.finite_singleton 0) |>.subset this
+
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:933]: This is about the finiteness of points with a given x-coordinate? Surely we should first prove this for `Equation` and `Nonsingular` in the Basic file. In any case it's not related to the rest of this PR.

**Review by Multramate — CHANGES_REQUESTED** [review]
My main concern is that you're proving things about 2P that should really be statements about the 2-division polynomials \psi and \Psi. I'll have comments for the rest of the `xRep` lemmas once you've addressed this.

Some naming convention comments - I know my current naming conventions are not ideal but we should stick with the conventions for now and we can change them later.

Finiteness of fibres `x : E -> P^1` should be proven in `Basic.lean` since it's unrelated to the rest of the PR. I'd argue you just remove it from this PR and have another general one for that as well as for `y : E -> P^1`. I can also do that if you don't have the time.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Point.lean:933]: It is related insofar as it is also API for `xRep` (the title of this PR is "more on `xRep` 😄").
The problem with proving this first for `Equation` and `Nonsingular` is that there is no `x`-coordinate map defined (other than `xRep`), so there is no map of which we can claim that it has finite fibers.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean:403]: The problem with that is that EllipticCurve.DivisionPolynomial.Basic imports EllipticCurve.Affine.Point. If I move these three lemmas to the other file, I'll also have to move the results that depend on them, which somehow doesn't feel right; to me it seems better to keep the addition related API in one place.

Also, I think that these results on the duplication map are more elementary than the whole machinery of division polynomials, and so I would think it is OK to have them here and accept the little bit of duplication. I'll add a comment to the docstring referring to `Ψ₂Sq`, though.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean:403]: I am still not convinced that we should any duplication at all. If the issue is the extra import, maybe I can move the `CoordinateRing.mk` lemmas to `DivisionPolynomial.Point` etc. Can you give me time until the end of July for this? I'm packed with conferences for the next three weeks.

Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Formula.lean:403]: Would it be OK to proceed for now until the approximate parallelogram law is in place (which needs the results on the duplication map) and think about refactoring later?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
